US08119663B2
Ethyl 5-(4-methoxyphenyl)pyridine-3-carboxylate
22.26 g (96.78 mmol) of ethyl 5-bromonicotinate, 25.00 g (164.5 mmol) of 4-methoxyphenylboronic acid, 0.56 g (0.48 mmol) of tetrakis(triphenylphosphine)palladium(0) and 20.51 g (193.6 mmol) of sodium carbonate were dissolved in a mixture of 180 ml of 1,2-dimethoxyethane, 50 ml of water and 400 ml of dimethylformamide and stirred at 85° C. for 18 h. For work-up, some of the dimethylformamide was removed under reduced pressure, and the reaction mixture was diluted with water and extracted with dichloromethane. The organic phase was dried over sodium sulphate and the crude product was purified by flash chromatography (dichloromethane/acetonitrile 100:2<100:5). Yield: 20.18 g (72% of theory)

reactant | ethyl 5-bromonicotinate | 96.78 mmol, 22.26 g | BrC=1C=NC=C(C(=O)OCC)C1 | C8H8BrNO2
reactant | 4-methoxyphenylboronic acid | 164.5 mmol, 25.00 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 193.6 mmol, 20.51 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 180 ml | COCCOC | C4H10O2
solvent | water | 50 ml | O | H2O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.48 mmol, 0.56 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 5-(4-methoxyphenyl)pyridine-3-carboxylate | COC1=CC=C(C=C1)C=1C=C(C=NC1)C(=O)OCC | C15H15NO3
